US08614206B2
To a solution 5-amino-1-benzyl-5-methylazepan-4-ol (1.2 g, 5.12 mmol) and Et3N (0.77 g, 7.68 mmol) in THF (20 mL) at 0° C. was added dropwise trifluoroacetic anhydride (1.18 g, 5.63 mmol, 0.78 mL). The reaction mixture was allowed to warm to room temperature and stirred for 3 hr. The mixture was partitioned between EtOAc (10 mL) and water (10 mL) and the aqueous layer was extracted with EtOAc (3×25 mL). The combined organic layers were washed with brine (30 mL), dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (1-5% (7 M NH3 in MeOH)/DCM) gave N-(1-benzyl-5-hydroxy-4-methylazepan-4-yl)-2,2,2-trifluoroacetamide (0.8 g, 47%) as a yellow gum. 1H NMR (400 MHz, CDCl3) δ 7.34-7.28 (m, 5H), 6.65 (br s, 1H), 4.22-4.15 (m, 1H), 3.60 (dd, J=9.6, 9.7 Hz, 2H), 2.90-2.75 (m, 1H), 2.70-2.65 (m, 1H), 2.60-2.49 (m, 2H), 2.20-2.10 (m, 1H), 1.95-1.80 (m, 2H), 1.75-1.55 (m, 2H), 1.58 (s, 3H).

reactant | 5-amino-1-benzyl-5-methylazepan-4-ol | 5.12 mmol, 1.2 g | NC1(C(CCN(CC1)CC1=CC=CC=C1)O)C | C14H22N2O
reactant | Et3N | 7.68 mmol, 0.77 g | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 5.63 mmol, 0.78 mL, 1.18 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(1-benzyl-5-hydroxy-4-methylazepan-4-yl)-2,2,2-trifluoroacetamide | 0.8 g, 47% | C(C1=CC=CC=C1)N1CCC(C(CC1)O)(C)NC(C(F)(F)F)=O | C16H21F3N2O2
